US06509328B1
7-Methyl-4-[3-(1-methyl-1H-imidazol-2-yl)-phenyl]-8-phenylethynyl-1,3-dihydro-benzo-[b][1,4]diazepin-2-one
Prepared from (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester (Example G2) (620 mg, 2.0 mmol) and 3-[3-(1-methyl-1H-imidazol-2-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester (Example H21) (1.26 g, 4.2 mmol) according to the general procedure K. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow solid (81 mg).

reactant | (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester | 2.0 mmol, 620 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)N)=O | C19H20N2O2
reactant | 3-[3-(1-methyl-1H-imidazol-2-yl)-phenyl]-3-oxo-propionic acid tert.-butyl ester | 4.2 mmol, 1.26 g | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1N(C=CN1)C)=O | C17H20N2O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Methyl-4-[3-(1-methyl-1H-imidazol-2-yl)-phenyl]-8-phenylethynyl-1,3-dihydro-benzo-[b][1,4]diazepin-2-one | 81 mg | CC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2N(C=CN2)C)=O)C=C1C#CC1=CC=CC=C1 | C28H22N4O
